US08110687B2
Step 6: N-[4-(1,2,3,4-tetrahydroisoquinolin-7-yloxy)pyridin-2-yl]-cyclopropanecarboxamide
A solution of tert-butyl 7-({2-[(cyclopropylcarbonyl)amino]pyridin-4-yl}oxy)-3,4-dihydroisoquinoline-2(1H)-carboxylate (2.22 g, 0.0051 mol) in 4M of HCl in 1,4-Dioxane (20 mL) was allowed to stir at rt for 30 min. The reaction mixture was concentrated to give N-[4-(1,2,3,4-tetrahydroisoquinolin-7-yloxy)pyridin-2-yl]cyclopropanecarboxamnide. LCMS: (FA) ES+310.3.

reactant | tert-butyl 7-({2-[(cyclopropylcarbonyl)amino]pyridin-4-yl}oxy)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 0.0051 mol, 2.22 g | C1(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C | C23H27N3O4
solvent | HCl | 4M | Cl | ClH
solvent | 1,4-Dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-[4-(1,2,3,4-tetrahydroisoquinolin-7-yloxy)pyridin-2-yl]-cyclopropanecarboxamide | C1NCCC2=CC=C(C=C12)OC1=CC(=NC=C1)NC(=O)C1CC1 | C18H19N3O2
